US04927838
As in Example 113, (E)-3-[3,4-dihydro-6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid (1.7 g) was reacted with 4-nitrophenol (0.775 g) in dichloromethane (25 mL) in the presence of 1,3-dicyclohexylcarbodiimide (1.04 g) overnight at room temperature. After the normal work up, the crude ester was triturated with diethyl ether and then crystallized from 2-propanol to give 1 g of (E)-3-[3,4-dihydro-6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester as a yellow solid, mp 151°-152° C. Anal. Calcd for C27H23NO6 : C, 70.89; H, 5.07; N, 3.06 Found: C, 70.52; H, 5.10; N, 3.08

reactant | (E)-3-[3,4-dihydro-6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid | 1.7 g | COC=1C=C2CCC(=C(C2=CC1)C1=CC=C(C=C1)OC)/C=C/C(=O)O | C21H20O4
reactant | 4-nitrophenol | 0.775 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 1.04 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-3-[3,4-dihydro-6-methoxy-1-(4-methoxyphenyl)-2-naphthalenyl]-2-propenoic acid 4-nitrophenyl ester | 1 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC=C(C=C2CC1)OC)C1=CC=C(C=C1)OC)=O | C27H23NO6
